US03930836
2-Bromoethyl ethanesulfonate
A mixture containing 12.5 ml. of 2-bromoethanol, 12.9 ml. of ethane sulfonyl chloride and 100 ml. of ether was formed. Then, 14 ml. of triethylamine was added dropwise over a 55 minute period at 5°-10°C. and stirred for 1 hour. The mixture was allowed to come to room temperature and stirred for an additional 15 minutes. To the mixture was added 100 ml. of water, the ether layer was separated, dried over magnesium sulfate and evaporated to yield 17.6 grams of a yellow oil. nD30 1.4760.

reactant | 2-bromoethanol | BrCCO | C2H5BrO
reactant | ethane sulfonyl chloride | C(C)S(=O)(=O)Cl | C2H5ClO2S
reactant | ether | CCOCC | C4H10O
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | 2-Bromoethyl ethanesulfonate | 17.6 grams | C(C)S(=O)(=O)OCCBr | C4H9BrO3S
